.subckt LF398H 3 8 7 4 6 5 1 
* INPUT STAGE 
VOS 10 3 DC 2E-3 
EPR 11 10 1 4 3.162E-6 
RIN 11 100 1E+10 
GIB 100 3 16 0 1E-9 
IIB 0 16 1 
RIB 16 0 3.5 TC=-.02762 3.81E-5 
* INTERMEDIATE STAGE 
EA 12 100 11 100 1 
MSD 12 13 14 15 SDS 
RMS 15 100 1MEG 
ES 13 100 21 22 500 
RC 14 6 300 
RCC 6 100 5E+11 
CF 3 14 0.32P 
* LOGIC CONTROL 
RL 8 7 1.5E+6 
EL 20 0 8 7 1 
RE 20 21 70 
DL 24 20 DMOD 
RDL 21 24 3.5 
VE 23 0 1 
CC 21 6 2P 
CE 21 22 0.1U 
DE 21 23 DMOD 
VL 22 0 1.4 
* OUTPUT STAGE 
ERF 1 100 1 4 .5 
DD1 31 32 MID 
DD2 33 31 MID 
VF2 32 100 0 
VF3 100 33 0 
FF1 100 31 VF1 1 
GOT 100 34 45 100 2 
ROT 100 34 0.5 
RO1 1 5 200MEG 
RO2 5 4 200MEG 
RAC 34 35 0.1 
VF1 35 5 0 
RP1 1 100 3.5K 
RP2 4 100 3.5K 
FF2 100 1 VF2 -1 
FF3 4 100 VF3 -1 
* OUTPUT SHORT CIRCUIT CURRENT 
GR 100 45 6 100 1E-3 
RR 100 45 1K 
MD1 45 42 100 43 SDS 
MD2 45 44 100 43 SDS 
RNM 43 100 1MEG 
HF1 42 100 POLY(1) VF1 -65 5000 
HF2 44 100 POLY(1) VF1 -32.5 -5000 
.MODEL SDS NMOS KP=1 
.MODEL DMOD D 
* SPECTRE: + IMAX=1000 
.MODEL MID D 
* SPECTRE: + IMAX=1000 
.ends 
* 
************************* 
* 
.subckt LF398J 3 8 7 4 6 5 1 
* INPUT STAGE 
VOS 10 3 DC 2E-3 
EPR 11 10 1 4 3.162E-6 
RIN 11 100 1E+10 
GIB 100 3 16 0 1E-9 
IIB 0 16 1 
RIB 16 0 3.5 TC=-.02762 3.81E-5 
* INTERMEDIATE STAGE 
EA 12 100 11 100 1 
MSD 12 13 14 15 SDS 
RMS 15 100 1MEG 
ES 13 100 21 22 500 
RC 14 6 300 
RCC 6 100 5E+11 
CF 3 14 0.32P 
* LOGIC CONTROL 
RL 8 7 1.5E+6 
EL 20 0 8 7 1 
RE 20 21 70 
DL 24 20 DMOD 
RDL 21 24 3.5 
VE 23 0 1 
CC 21 6 2P 
CE 21 22 0.1U 
DE 21 23 DMOD 
VL 22 0 1.4 
* OUTPUT STAGE 
ERF 1 100 1 4 .5 
DD1 31 32 MID 
DD2 33 31 MID 
VF2 32 100 0 
VF3 100 33 0 
FF1 100 31 VF1 1 
GOT 100 34 45 100 2 
ROT 100 34 0.5 
RO1 1 5 200MEG 
RO2 5 4 200MEG 
RAC 34 35 0.1 
VF1 35 5 0 
RP1 1 100 3.5K 
RP2 4 100 3.5K 
FF2 100 1 VF2 -1 
FF3 4 100 VF3 -1 
* OUTPUT SHORT CIRCUIT CURRENT 
GR 100 45 6 100 1E-3 
RR 100 45 1K 
MD1 45 42 100 43 SDS 
MD2 45 44 100 43 SDS 
RNM 43 100 1MEG 
HF1 42 100 POLY(1) VF1 -65 5000 
HF2 44 100 POLY(1) VF1 -32.5 -5000 
.MODEL SDS NMOS KP=1 
.MODEL DMOD D 
* SPECTRE: + IMAX=1000 
.MODEL MID D 
* SPECTRE: + IMAX=1000 
.ends